US06242443B1
6,7-Dichloro-3-(1,2-dimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-4,5-dichlorobenzenesulfonamide and 1,2-dimethylpropyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 242-250° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 0.90 (d, 3H, CH3), 0.91 (d, 3H, CH3), 1.10 (d, 1H, CH3), 1.77 (m, 1H, CH(CH3)2), 3.71 (m, 1H, NHCH), 7.29 (br., 1H, NH), 7.49 (br.s, 1H, ArH), 7.89 (s, 1H, ArH), 10.41 (br.s, 1H, NH); MS: m/e 335/337/339 (M+); (C12H15N3Cl2O2S1) calc. C, 42.87; H, 4.50; N, 12.50; found C, 42.94; H, 4.68; N, 12.45.

reactant | 2-amino-4,5-dichlorobenzenesulfonamide | NC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)N | C6H6Cl2N2O2S
reactant | 1,2-dimethylpropyl isothiocyanate | CC(C(C)C)N=C=S | C6H11NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dichloro-3-(1,2-dimethylpropyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(NC(=NS2(=O)=O)NC(C(C)C)C)C1)Cl | C12H15Cl2N3O2S
